2122-02-22 07:09:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
   -- intial attempts at improving ventilation by increasing BIPAP I/E
   -- patient with worsened ABG w/ PCO2 of 105 and increasing fatigue
   -- patinet underwent elective intubation, intially difficult to
   ventilate [**1-24**] to significant obstruction to expiration, continued high
   PCO2, and high auto PEEP, all improved w/ frequent nebs
   -- LENI negative
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2122-2-21**] 09:40 PM
   Midazolam (Versed) - [**2122-2-21**] 09:44 PM
   Heparin Sodium (Prophylaxis) - [**2122-2-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Respiratory: Wheeze
   Flowsheet Data as of  [**2122-2-22**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.8
C (96.5
   HR: 77 (74 - 141) bpm
   BP: 102/60(73) {89/54(0) - 146/90(290)} mmHg
   RR: 14 (12 - 38) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104 kg (admission): 104 kg
             Total In:
                                                                  1,104 mL
                                                                    136 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    744 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    200 mL
   Urine:
                                                                    400 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    704 mL
                                                                    -64 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 680 (550 - 680) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 22 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 90%
   ABG: 7.37/77.[**Numeric Identifier 96**]/76.[**Numeric Identifier 128**]/38/14
   Ve: 6.2 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, erythema w/ venoustasis changes b/l
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   148 K/uL
   12.7 g/dL
   153 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.5 mEq/L
   25 mg/dL
   95 mEq/L
   138 mEq/L
   39.1 %
   5.6 K/uL
        [image002.jpg]
                             [**2122-2-21**]  05:26 AM
                             [**2122-2-21**]  08:21 AM
                             [**2122-2-21**]  03:54 PM
                             [**2122-2-21**]  08:21 PM
                             [**2122-2-21**]  09:05 PM
                             [**2122-2-21**]  10:27 PM
                             [**2122-2-22**]  01:11 AM
                             [**2122-2-22**]  04:00 AM
                             [**2122-2-22**]  04:21 AM
                             [**2122-2-22**]  06:04 AM
   WBC
   5.6
   Hct
   39.1
   Plt
   148
   Cr
   0.7
   TropT
   <0.01
   TCO2
   48
   46
   46
   48
   50
   47
   43
   46
   47
   Glucose
   153
   Other labs: CK / CKMB / Troponin-T:41/4/<0.01, Differential-Neuts:90.2
   %, Band:0.0 %, Lymph:4.8 %, Mono:4.9 %, Eos:0.1 %, Lactic Acid:0.7
   mmol/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Imaging: LENI:  IMPRESSION:  No evidence of DVT.
   Microbiology:   DIRECT INFLUENZA A ANTIGEN TEST (Final [**2122-2-21**]):
         Negative for Influenza A viral antigen.
      DIRECT INFLUENZA B ANTIGEN TEST (Final [**2122-2-21**]):
         NEGATIVE FOR INFLUENZA B VIRAL ANTIGEN.
   Assessment and Plan
   A/P:
   69M h/o COPD, dCHF, admitted with SOB, tachycardia, LE erythema and
   ulcer who is admitted w/ hypoxia likely COPD flare, Intubated overnight
   .
   # hypoxia - most likely COPD flare.  No evidence of fluid overload, and
   chest exam w/ wheezes and poor air movement c/w obstructive etiology.
   Patient shows no signs of fluid overload, a w/ negative LENI, now
   suspicion of PE.  Patient was Intubated overnight, and now shows
   improved ABG.
   -- continue intubation for ventilatory support.
   - continue iv solumedrol 80iv q8, and frequent  albuterol, atrovent
   nebs.
   - continue levaquin for empiric overage
   - check sputum cx.  consider pcp, [**Name10 (NameIs) **] cxr not consistent. Continue
   ppx w/ bactrim
   - dFA negative for flu
   - LENI negative, now pre-test probability for CTA to evaluate for PE
   - cycle CE x 3
   - f/u urine legonella
   .
   .
   # cardiac - +SOB, no CP, orthopnea, pnd, has LE edema however.  feel MI
   unlikely.
   ## ischemia:
   - patient was started on ASA on admission, but w/ ROMI negative, now
   d
   .
   ## rythym: sinus tachycardia,  now resolved.  Was likely [**1-24**] to
   hypoxia, distress from BIPAP, EKG unrevealing.
   - continue telemetry. .
   .
   ## pump: euvolemic/dry on exam.  EF >55% 11/07, though some evidence of
   diastolic dysfunction, with elevated BNP which could suggest mild
   volume overload.
   - patient dropped his BP w/ intubation, improved w/ IVF
   .
   ## htn: h/o HTN, with resultant dCHF.
   - holding BP meds as BP currently okay and recent hypotension w/
   intubation
   .
   .
   # LE edema/erythema - pt with similar sx during [**10-30**] admission, being
   covered for cellulitis presently with levaquin, received one dose of
   vanco in ED.
   -- worsened erythema on left leg today and removal of foot bandage
   reveals purulent ulcer.  Patient w/o fever/WBC, but will get swab and
   treat w/ vanc empirically.  If progresses, would add flagyl for
   anerobic coverage
   .
   #FEN
   - NPO, NG placed now, start tube feeds.
   ICU Care
   Nutrition:
   Comments: NPO, starting TF
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-2-21**] 02:00 AM
   Arterial Line - [**2122-2-21**] 03:00 PM
   20 Gauge - [**2122-2-21**] 10:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2122-02-22 11:02:00 Physician Attending Progress Note
Chief Complaint: hypercarbic respiratory failure, copd exacerbation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 yo m with severe COPD (chronic prednisone, home O2) with chronic
   hypercarbia presents with copd flare and acute on chronic hypercarbic
   resp failure likely from bronchitis verses pna
   24 Hour Events:
 ULTRASOUND - At [**2122-2-21**] 01:48 PM
 ARTERIAL LINE - START [**2122-2-21**] 03:00 PM
   Worsening of abg's on bipap and fatigue--semi-elective intubation
   overnight.
   Difficult ventilation-- overnight with evidence of bronchospasm,
   improvement in abg with aggressive MDI's
   lenis negative
   History obtained from Medical records, house staff
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2122-2-21**] 09:40 PM
   Midazolam (Versed) - [**2122-2-21**] 09:44 PM
   Heparin Sodium (Prophylaxis) - [**2122-2-22**] 12:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-2-22**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 73 (73 - 103) bpm
   BP: 99/65(78) {89/54(0) - 146/90(290)} mmHg
   RR: 14 (12 - 38) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.1 kg (admission): 104 kg
             Total In:
                                                                  1,104 mL
                                                                    205 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    744 mL
                                                                    205 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    290 mL
   Urine:
                                                                    400 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    704 mL
                                                                    -85 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 680 (680 - 680) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 18 cmH2O
   Compliance: 78.6 cmH2O/mL
   SpO2: 90%
   ABG: 7.37/77.[**Numeric Identifier 96**]/76.[**Numeric Identifier 128**]/38/14
   Ve: 5.8 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Wheezes : decreased, Diminished: ), tight with limited air movement
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, venous stasis ulcer R medial
   calf, purulent smelling (pt refused bandage removal yesterday)
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   12.7 g/dL
   148 K/uL
   153 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.5 mEq/L
   25 mg/dL
   95 mEq/L
   138 mEq/L
   39.1 %
   5.6 K/uL
        [image002.jpg]
                             [**2122-2-21**]  05:26 AM
                             [**2122-2-21**]  08:21 AM
                             [**2122-2-21**]  03:54 PM
                             [**2122-2-21**]  08:21 PM
                             [**2122-2-21**]  09:05 PM
                             [**2122-2-21**]  10:27 PM
                             [**2122-2-22**]  01:11 AM
                             [**2122-2-22**]  04:00 AM
                             [**2122-2-22**]  04:21 AM
                             [**2122-2-22**]  06:04 AM
   WBC
   5.6
   Hct
   39.1
   Plt
   148
   Cr
   0.7
   TropT
   <0.01
   TCO2
   48
   46
   46
   48
   50
   47
   43
   46
   47
   Glucose
   153
   Other labs: CK / CKMB / Troponin-T:41/4/<0.01, Differential-Neuts:90.2
   %, Band:0.0 %, Lymph:4.8 %, Mono:4.9 %, Eos:0.1 %, Lactic Acid:0.7
   mmol/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Imaging: cxr-
   Microbiology: influenza dfa negative
   Assessment and Plan
   Assessment and Plan
   69 yo m with severe COPD (chronic prednisone, home O2) with chronic
   hypercarbia presents with copd flare and acute on chronic hypercarbic
   and hypoxic resp failure likely from bronchitis verses pna
   now with evidence of venous stasis ulcer and ? cellulitis, intubated
   overnight
   MAIN ISSUES:
   # hypoxemia
   copd exacerbation remains most likely etiology, with pe (given
   tachycardia) verses chf on ddx, though low suspicon--lenis neagtive and
   given significant bronchospasm
   acute on chronic hypercarbic resp failure, with progressive fatigue and
   bronshospam leading to intubation
        no new infiltrate on cxr, given significant bronchospasm most
   concerned for copd with bronchitis verses early pna (bacterial verses
   viral)  low suspicion for pe, though has b/l le edema.  Pt is on high
   dose of chronic steroids so immunosupressed, though on PCP [**Name9 (PRE) 1316**] which
   we are continuing.
   Sputum cx, blood cx if spikes, ruled out for influenze and urine
   legionella pending
   continue solumedrol 80 Q 8, Q 2 hr mdis and atrovent Q 6, follow abg
   though ventialtion making slow imrpovement
   empiric antibx levoflox for 7 day and recheck sputum for ET sx, follow
   LLL on cxr--likely ateelcatsis as clinically without new evidence of
   infection
   # diastolic dysfx-does not appear overtly fluid overloaded, BNP
   elevated, has chronic LE edema likely from pulm htn
        would restart ace-i and sadd back hctz later if bp stable
   # tachycardia-now improved, suspect from copd/resp distress with low
   suspicon of PE given exam and eng lenis
   # elevated troponin and nonspecific ecg changes--follow enzymes and
   continue asa pending next set
   # LE edema/erythema -now appears more erythematous ? positonal though
   cellulitiss concer--af with stable wbc, also with R venous stasis
   ulcer, swab and check blood cx given steroids chronically and may not
   mount fever, resume vanco and follow
   ICU Care
   Nutrition:
   Comments: start tf's once palcement confirmed
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2122-2-21**] 02:00 AM
   Arterial Line - [**2122-2-21**] 03:00 PM
   20 Gauge - [**2122-2-21**] 10:45 PM
   Comments: picc consult
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker--will start pre-tf's
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2122-02-23 13:06:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  69 yo m with severe COPD (chronic prednisone, home O2) with
   chronic hypercarbia presents with copd flare/bronchitis, acute on
   chronic hypercarbic and hypoxic resp failure, and cellulitis
   24 Hour Events:
 BLOOD CULTURED - At [**2122-2-22**] 12:07 PM
 PICC LINE - START [**2122-2-22**] 02:17 PM
 URINE CULTURE - At [**2122-2-22**] 02:20 PM
 SPUTUM CULTURE - At [**2122-2-22**] 02:30 PM
   vanco added for cellulitis LLE
   new black lesions seen on L thigh and R calf concerning for  ? skin
   malignancy
   History obtained from Patient, house staff
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2122-2-23**] 09:22 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2122-2-23**] 06:00 AM
   Lansoprazole (Prevacid) - [**2122-2-23**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2122-2-23**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-2-23**] 01:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.6
C (96
   HR: 78 (70 - 96) bpm
   BP: 115/57(74) {95/49(64) - 122/66(84)} mmHg
   RR: 13 (10 - 15) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.1 kg (admission): 104 kg
             Total In:
                                                                    993 mL
                                                                    873 mL
   PO:
             TF:
                                                                    115 mL
                                                                    365 mL
   IVF:
                                                                    668 mL
                                                                    448 mL
   Blood products:
   Total out:
                                                                    964 mL
                                                                    465 mL
   Urine:
                                                                    664 mL
                                                                    465 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                     29 mL
                                                                    408 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 18 cmH2O
   Compliance: 68.8 cmH2O/mL
   SpO2: 90%
   ABG: 7.36/81.[**Numeric Identifier 607**]/72/42/16
   Ve: 6.4 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases, Wheezes : , Diminished: ), some improved air movement
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, errythemia on L calf
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: erythema at L calf, pretibial, lesions black thigh L
   and r calf
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to):  X 3, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   12.6 g/dL
   146 K/uL
   156 mg/dL
   0.9 mg/dL
   42 mEq/L
   4.3 mEq/L
   33 mg/dL
   94 mEq/L
   138 mEq/L
   38.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2122-2-21**]  10:27 PM
                             [**2122-2-22**]  01:11 AM
                             [**2122-2-22**]  04:00 AM
                             [**2122-2-22**]  04:21 AM
                             [**2122-2-22**]  06:04 AM
                             [**2122-2-22**]  07:00 PM
                             [**2122-2-22**]  07:05 PM
                             [**2122-2-22**]  09:00 PM
                             [**2122-2-23**]  04:15 AM
                             [**2122-2-23**]  10:45 AM
   WBC
   5.6
   6.5
   Hct
   39.1
   38.4
   38.4
   Plt
   148
   146
   Cr
   0.7
   0.9
   TropT
   <0.01
   TCO2
   47
   43
   46
   47
   48
   49
   48
   Glucose
   153
   156
   Other labs: CK / CKMB / Troponin-T:41/4/<0.01, Differential-Neuts:90.2
   %, Band:0.0 %, Lymph:4.8 %, Mono:4.9 %, Eos:0.1 %, Lactic Acid:0.7
   mmol/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: u/a + rbc and wbc, bacteria
   Imaging: cxr--new blunting r cp angle, probable effusion, L basilar
   atelectasis, pulm vascular congestion/edema
   Microbiology: urine and blood ngtd, urine legionella pending, sputum
   neg
   Assessment and Plan
   69 yo m with severe COPD (chronic prednisone, home O2) with chronic
   hypercarbia presents with copd flare/bronchitis, intubated for  acute
   on chronic hypercarbic and hypoxic resp failure, and cellulitis
   MAIN ISSUES INCLUDE:
   # Respiratory failure, acute on chronic hypercarbic and hypoxemic from
   copd flare/bronchitis/pna
       Continue antibx with levoflox for 7 day
       Follow LLL on cxr--likely atelectasis
       Pt is on high dose of chronic steroids  at home so
   immunosuppressed,  on PCP [**Name9 (PRE) 1316**] with bactrim
       Sputum cx with ngtd, ruled out for influenza and rsv, urine
   legionella pending
       Continue solumedrol
decrease to 60 Q 8, likely change to prednisone
   in am,
       frequent albuterol mdi's and atrovent Q 6,
       Follow abg though ventilation improving and some increased air
   movement noted on exam.
        Stable now on PS, not yet ready for extubation, diurese  today
   # LE cellulitis--now appears more erythematous c/t admit, though af and
   with nl wbc ct (on chronic now high dose steroids)
       f/u blood cxs
       Resume vanco-- changing to PO med for cellulitis
   # Skin lesions-consult derm for input
   # diastolic dysfx-cxr looks wet today
         restart ace-i , diruese with lasix then resume home regimen
   # tachycardia-now resolved , suspect from copd/resp distress with low
   suspicion of PE given exam and neg lenis
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2122-2-21**] 03:00 PM
   20 Gauge - [**2122-2-21**] 10:45 PM
   PICC Line - [**2122-2-22**] 02:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2122-02-24 06:52:00 Physician Resident Progress Note
Chief Complaint: COPD flare
   24 Hour Events:
   - per derm consult, unlikely melanoma, will need shave biopsy as outpt
   - continue vanc for RLE cellulitis
   - ABGs closer to baseline on [**Month (only) 38**] MinVent but serum bicarb rising at 45,
   switched back to A/C [**1-24**] to increased PCO2
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2122-2-23**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2122-2-23**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2122-2-24**] 12:00 AM
   Furosemide (Lasix) - [**2122-2-24**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-2-24**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 78 (70 - 110) bpm
   BP: 105/56(72) {94/53(68) - 143/81(100)} mmHg
   RR: 15 (10 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.1 kg (admission): 104 kg
             Total In:
                                                                  2,558 mL
                                                                    518 mL
   PO:
             TF:
                                                                  1,625 mL
                                                                    387 mL
   IVF:
                                                                    873 mL
                                                                    131 mL
   Blood products:
   Total out:
                                                                  2,562 mL
                                                                  1,645 mL
   Urine:
                                                                  2,562 mL
                                                                  1,645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -4 mL
                                                                 -1,127 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   SpO2: 91%
   ABG: 7.38/77/64/45/15
   Ve: 5.6 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: No acute distress, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   slight at bases, but improved, Wheezes : significantly )
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, improved let erythema, not hot to touch, necrotic black
   lesion at left ankle
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Not assessed, Sedated, Tone:
   Normal, responsds to questions, lightly sedated
   Labs / Radiology
   143 K/uL
   12.8 g/dL
   187 mg/dL
   1.0 mg/dL
   45 mEq/L
   4.2 mEq/L
   36 mg/dL
   91 mEq/L
   140 mEq/L
   40.0 %
   7.5 K/uL
        [image002.jpg]
                             [**2122-2-22**]  07:00 PM
                             [**2122-2-22**]  07:05 PM
                             [**2122-2-22**]  09:00 PM
                             [**2122-2-23**]  04:15 AM
                             [**2122-2-23**]  10:45 AM
                             [**2122-2-23**]  01:21 PM
                             [**2122-2-23**]  05:14 PM
                             [**2122-2-23**]  07:05 PM
                             [**2122-2-23**]  09:36 PM
                             [**2122-2-24**]  02:51 AM
   WBC
   6.5
   7.5
   Hct
   38.4
   38.4
   40.0
   Plt
   146
   143
   Cr
   0.9
   1.0
   TCO2
   48
   49
   48
   48
   52
   48
   47
   Glucose
   156
   187
   Other labs: PT / PTT / INR:12.6/33.5/1.1, CK / CKMB /
   Troponin-T:41/4/<0.01, Differential-Neuts:90.2 %, Band:0.0 %, Lymph:4.8
   %, Mono:4.9 %, Eos:0.1 %, Lactic Acid:0.7 mmol/L, Ca++:8.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR:  FINDINGS:  In comparison with the study of [**2-22**], the
   right PICC line has either
   been removed or pulled back outside of the thorax.  Endotracheal and
   nasogastric tubes remain in place.  The right hemidiaphragm is not
   sharply
   seen, consistent with atelectatic changes or effusion at the base.  The
   left
   base opacification persists, consistent with some combination of
   atelectasis
   and effusion.
   Microbiology: NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN.
     GRAM STAIN (Final [**2122-2-22**]):
         NO MICROORGANISMS SEEN.
   Blood Culture, Routine (Pending):
   Assessment and Plan
   69 y/o male w/ hx of COPD, dCHF, admitted w/ dyspnea, likely worsening
   hypoxia in setting of COPD flaire, now intubated.
   #  hypoxia:  most likely COPD flare.  Wheezes on chest exam w/ poor
   pair movement c/w obstructive etiology.  Patient w/ negative LENI, low
   suspicison of PE.  Patient was intubated due to increasing hypercapnea
   and increased work of breathing.  Improved ABG on ventilator.
   &#[**Numeric Identifier 1353**];              continue intubation for ventalatory support, now
   changed to PS/AC, likely extubation tomorrow/today
   &#[**Numeric Identifier 1353**];              decreased solumedrol to 60mg ivq8, assess
   decreasing to 40mg IVq8/60mg prednisone daily
   &#[**Numeric Identifier 1353**];              frequent albuterol / atrovent nebs, decreased
   frequency q4
   &#[**Numeric Identifier 1353**];              continue levaquin for empiric coverage
   &#[**Numeric Identifier 1353**];              sputum CX showed no organisims, urine legonalla
   negative
   &#[**Numeric Identifier 1353**];              DFA negative
   &#[**Numeric Identifier 1353**];              CE negative x 3
   &#[**Numeric Identifier 1353**];              CXR yesterday showing pleural edema, pt w/ hx of
   dCHF on home lasix not being given.  Will diurese w/ goal of 1L.
   #cardiac:  + SOB, no CP, orthopnea, PND, has LE edema however.  Low
   suspision for MI
   &#[**Numeric Identifier 1353**];              Ischemia: ROMI negative, was started on ASA, now
   d/c
   &#[**Numeric Identifier 1353**];              Rhythem: sinus tach, now resolved.  Felt was
   likely [**1-24**] to hypoxa,distress from BIPAP, EKG unrevealing, cont
   telemetry
   &#[**Numeric Identifier 1353**];              Pump: now w/ pleural edema on CXR, hx of dCHF,
   will diurese and  resume home lasix dose.
   # HTN:  hx of HTN.  Restarted lisinopril, holding HCTZ given low
   pressures, lasix as tolerated given evidence of CHF.
   #LE edema/erythema:  worsening LE erythema, no WBC, no fever.
   Startarted on vanc. Follow up bcx, wound cx, and decrease per
   culture/sensitivities.
   -- outpatieted shave bx of ankle mass
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-2-24**] 05:20 AM 60 mL/hour
   Comments: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2122-2-21**] 03:00 PM
   PICC Line - [**2122-2-22**] 02:17 PM
   Comments: Check on positinoning of PICC in today's CXR
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:Call once once extubated

2122-02-24 11:57:00 Physician Attending Progress Note
Chief Complaint: respiratory failure,copd exac/bronchitis,  cellulitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  69 yo m with severe COPD (chronic prednisone, home O2) with
   chronic hypercarbia, diastolic heart failure presents with copd
   flare/bronchitis, intubated for acute on chronic hypercarbic and
   hypoxic resp failure
   24 Hour Events:
   ps during day then fatigued, rested on ACV overnight
   derm c/s w/ plan for outpt shve bx of leg lesion
   diuresed 1 L neg
   History obtained from Patient, house staff
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2122-2-24**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2122-2-24**] 12:15 AM
   Heparin Sodium (Prophylaxis) - [**2122-2-24**] 08:12 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-2-24**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 75 (74 - 110) bpm
   BP: 126/68(85) {94/54(69) - 143/81(100)} mmHg
   RR: 11 (11 - 26) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.1 kg (admission): 104 kg
             Total In:
                                                                  2,558 mL
                                                                  1,253 mL
   PO:
             TF:
                                                                  1,625 mL
                                                                    725 mL
   IVF:
                                                                    873 mL
                                                                    439 mL
   Blood products:
   Total out:
                                                                  2,562 mL
                                                                  1,895 mL
   Urine:
                                                                  2,562 mL
                                                                  1,895 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -4 mL
                                                                   -642 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   SpO2: 87%
   ABG: 7.38/77/64/45/15
   Ve: 7.6 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases, Wheezes : less, Diminished: bases), improved air movement
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing,
   chronic changes, of venous stasis
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, L cellulitis less inflamed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, Tone: Normal
   Labs / Radiology
   12.8 g/dL
   143 K/uL
   187 mg/dL
   1.0 mg/dL
   45 mEq/L
   4.2 mEq/L
   36 mg/dL
   91 mEq/L
   140 mEq/L
   40.0 %
   7.5 K/uL
        [image002.jpg]
                             [**2122-2-22**]  07:00 PM
                             [**2122-2-22**]  07:05 PM
                             [**2122-2-22**]  09:00 PM
                             [**2122-2-23**]  04:15 AM
                             [**2122-2-23**]  10:45 AM
                             [**2122-2-23**]  01:21 PM
                             [**2122-2-23**]  05:14 PM
                             [**2122-2-23**]  07:05 PM
                             [**2122-2-23**]  09:36 PM
                             [**2122-2-24**]  02:51 AM
   WBC
   6.5
   7.5
   Hct
   38.4
   38.4
   40.0
   Plt
   146
   143
   Cr
   0.9
   1.0
   TCO2
   48
   49
   48
   48
   52
   48
   47
   Glucose
   156
   187
   Other labs: PT / PTT / INR:12.6/33.5/1.1, CK / CKMB /
   Troponin-T:41/4/<0.01, Differential-Neuts:90.2 %, Band:0.0 %, Lymph:4.8
   %, Mono:4.9 %, Eos:0.1 %, Lactic Acid:0.7 mmol/L, Ca++:8.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Imaging: underpenetrated, vascular congestion, increased haziness at
   LUL though no clear collapse
   Microbiology: urine leg neg
   blood neg
   sputum ngtd
   Assessment and Plan
   69 yo m with severe COPD (chronic prednisone, home O2) with chronic
   hypercarbia, diastolic heart failure, presents with copd
   flare/bronchitis, intubated for acute on chronic hypercarbic and
   hypoxic resp failure
    MAIN ISSUES INCLUDE:
   # Respiratory failure, acute on chronic hypercarbic and hypoxemic from
   copd flare/bronchitis/pna
       -  Complete course of levoflox , day [**5-30**]
       -  PCP [**Name9 (PRE) 1316**] with bactrim given chronic steroids
       -  Sputum cx with ngtd, ruled out for influenza and rsv, urine
   legionella pending
       -  Continue solumedrol
decrease to 60 [**Hospital1 **], change to prednisone in
   am,
       -  Albuterol mdi's and atrovent Q 6,
       -  RSBI < 100 and bronchospasm improved, alert without secreation,
   diruesed well
       - Check abg on PS and consider extubation
   # LE cellulitis--remains af and with nl wbc ct (on chronic now high
   dose steroids) , has improved and may be [**1-24**] venous stasis
       f/u blood cxs with ngtd
       d/c vanco -- changing to PO meds for cellulitis after completes
   course levo (keflex)
   # Skin lesions-seen by derm, plan for outpt f/u/bx
   # diastolic dysfx-cxr looks wet with limited film,
        Restarted ace-i , diruese with lasix then resume home regimen
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-2-24**] 05:20 AM 60 mL/hour
   Comments: hold TF's for extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2122-2-21**] 03:00 PM
   PICC Line - [**2122-2-22**] 02:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2122-02-25 06:57:00 Physician Resident Progress Note
Chief Complaint: COPD Exacerbation
   24 Hour Events:
 INVASIVE VENTILATION - START [**2122-2-24**] 06:07 PM
   -- patient w/ worsened acidosis on PS w/ pCO2 of 105, patient put back
   on AC w/ improvement to 84
   -- continued steroid taper
   -- continued diuresis
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2122-2-24**] 08:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2122-2-24**] 04:30 PM
   Heparin Sodium (Prophylaxis) - [**2122-2-24**] 06:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-2-25**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 82 (70 - 89) bpm
   BP: 112/62(78) {102/52(67) - 146/74(97)} mmHg
   RR: 14 (10 - 18) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.1 kg (admission): 104 kg
             Total In:
                                                                  2,246 mL
                                                                    263 mL
   PO:
             TF:
                                                                  1,463 mL
                                                                    127 mL
   IVF:
                                                                    692 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  3,720 mL
                                                                    410 mL
   Urine:
                                                                  3,720 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,474 mL
                                                                   -147 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 678 (500 - 678) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 90
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 87%
   ABG: 7.38/91/62/49/23
   Ve: 6.1 L/min
   PaO2 / FiO2: 155
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, sclera injected
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent, erythema RLE stable: erythema
   around PICC RUE
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, Rash: erythema LLE stable
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   155 K/uL
   12.8 g/dL
   146 mg/dL
   0.8 mg/dL
   49 mEq/L
   4.6 mEq/L
   42 mg/dL
   90 mEq/L
   143 mEq/L
   40.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2122-2-23**]  10:45 AM
                             [**2122-2-23**]  01:21 PM
                             [**2122-2-23**]  05:14 PM
                             [**2122-2-23**]  07:05 PM
                             [**2122-2-23**]  09:36 PM
                             [**2122-2-24**]  02:51 AM
                             [**2122-2-24**]  12:14 PM
                             [**2122-2-24**]  07:45 PM
                             [**2122-2-24**]  09:30 PM
                             [**2122-2-25**]  03:37 AM
   WBC
   7.5
   6.5
   Hct
   40.0
   40.1
   Plt
   143
   155
   Cr
   1.0
   0.8
   TCO2
   48
   48
   52
   48
   47
   55
   56
   53
   Glucose
   187
   146
   Other labs: PT / PTT / INR:12.0/35.7/1.0, CK / CKMB /
   Troponin-T:41/4/<0.01, Differential-Neuts:90.2 %, Band:0.0 %, Lymph:4.8
   %, Mono:4.9 %, Eos:0.1 %, Lactic Acid:0.7 mmol/L, Ca++:9.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   69 y/o male w/ hx of COPD, [**Year (4 digits) 1343**], admitted w/ dyspnea, likely worsening
   hypoxia in setting of COPD flaire, now intubated.
   #  hypoxia:  most likely COPD flare.  Wheezes on chest exam w/ poor
   pair movement c/w obstructive etiology.  Patient w/ negative LENI, low
   suspicison of PE.  Patient was intubated due to increasing hypercapnea
   and increased work of breathing.  Improved ABG on ventilator.
   --             continue intubation for ventalatory support, now changed
   to PS/AC, likely extubation tomorrow/today
   --             decreased solumedrol to 60mg ivq8, assess decreasing to
   40mg IVq8/60mg prednisone daily
   --             frequent albuterol / atrovent nebs, decreased frequency
   q4
   --             continue levaquin for empiric coverage
   --             sputum CX showed no organisims, urine legonalla negative
   --             DFA negative
   --             CE negative x 3
   --             CXR yesterday showing pleural edema, pt w/ hx of [**Year (4 digits) 1343**] on
   home lasix not being given.  Will diurese w/ goal of 1L.
   #cardiac:  + SOB, no CP, orthopnea, PND, has LE edema however.  Low
   suspision for MI
   --             Ischemia: ROMI negative, was started on ASA, now d/c
   --             Rhythem: sinus tach, now resolved.  Felt was likely [**1-24**]
   to hypoxa,distress from BIPAP, EKG unrevealing, cont telemetry
   --             Pump: now w/ pleural edema on CXR, hx of [**Last Name (LF) 1343**], [**First Name3 (LF) 178**]
   diurese and  resume home lasix dose.
   # HTN:  hx of HTN.  Restarted lisinopril, will restart HCTZ today,
   lasix as tolerated given evidence of CHF on CXR with goal of negative
   .5-1L.
   #LE edema/erythema:  LE erythema slightly improved.  Cellulitis vs.
   changes from LE edema.  Noted that  no WBC, no fever.  Startarted on
   vanc b/c looked notably angre. Follow up bcx, wound cx.  Low suspicisn
   for MRSA cellultiis, feel adequate treatment on levofloxacin.
   -- outpatieted shave bx of ankle mass
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2122-2-21**] 03:00 PM
   PICC Line - [**2122-2-22**] 02:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2122-02-25 13:13:00 Physician Attending Progress Note
Chief Complaint: respiratory failure/copd exac
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 69 yo m with severe COPD (chronic prednisone, home O2) with
   chronic hypercarbia, diastolic heart failure, presents with copd
   flare/bronchitis, intubated for acute on chronic hypercarbic and
   hypoxic resp failure
   24 Hour Events:
 INVASIVE VENTILATION - START [**2122-2-24**] 06:07 PM
became
   acidemic/increased CO2 on PS wean and rested on ACV overnight
   History obtained from Patient, house staff
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2122-2-24**] 08:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2122-2-24**] 04:30 PM
   Heparin Sodium (Prophylaxis) - [**2122-2-24**] 06:17 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-2-25**] 01:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 79 (70 - 89) bpm
   BP: 115/60(79) {101/52(67) - 141/89(95)} mmHg
   RR: 15 (10 - 18) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 104 kg
             Total In:
                                                                  2,246 mL
                                                                    487 mL
   PO:
             TF:
                                                                  1,463 mL
                                                                    127 mL
   IVF:
                                                                    692 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  3,720 mL
                                                                    705 mL
   Urine:
                                                                  3,720 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,474 mL
                                                                   -218 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 678 (678 - 678) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   SpO2: 90%
   ABG: 7.38/91/62/49/23
   Ve: 6.9 L/min
   PaO2 / FiO2: 155
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : scant, No(t) Wheezes : , Diminished: but improved) without
   wheeze
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, Rash: L le cellulitis looks improved/chronic stasis
   changes, easy bruising,
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): intubated, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   12.8 g/dL
   155 K/uL
   146 mg/dL
   0.8 mg/dL
   49 mEq/L (38-->45)
   4.6 mEq/L
   42 mg/dL (36)
   90 mEq/L
   143 mEq/L
   40.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2122-2-23**]  10:45 AM
                             [**2122-2-23**]  01:21 PM
                             [**2122-2-23**]  05:14 PM
                             [**2122-2-23**]  07:05 PM
                             [**2122-2-23**]  09:36 PM
                             [**2122-2-24**]  02:51 AM
                             [**2122-2-24**]  12:14 PM
                             [**2122-2-24**]  07:45 PM
                             [**2122-2-24**]  09:30 PM
                             [**2122-2-25**]  03:37 AM
   WBC
   7.5
   6.5
   Hct
   40.0
   40.1
   Plt
   143
   155
   Cr
   1.0
   0.8
   TCO2
   48
   48
   52
   48
   47
   55
   56
   53
   Glucose
   187
   146
   Other labs: PT / PTT / INR:12.0/35.7/1.0, CK / CKMB /
   Troponin-T:41/4/<0.01, Differential-Neuts:90.2 %, Band:0.0 %, Lymph:4.8
   %, Mono:4.9 %, Eos:0.1 %, Lactic Acid:0.7 mmol/L, Ca++:9.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Imaging: no new cxr
   Microbiology: sputum--oropharengeal flora, other data pending, ngtd
   Assessment and Plan
   69 yo m with severe COPD (chronic prednisone, home O2) with chronic
   hypercarbia, diastolic heart failure, presents with copd
   flare/bronchitis, intubated for acute on chronic hypercarbic and
   hypoxic resp failure
    MAIN ISSUES INCLUDE:
   # Respiratory failure, acute on chronic hypercarbic and hypoxemic from
   copd flare/bronchitis/pna
       -  Completing course of levoflox , day [**6-29**]
       -  continue PCP [**Name9 (PRE) 1316**] [**Name Initial (PRE) **]/ bactrim given chronic steroids
       -  Taper prednisone
 60 Q D
       -  Albuterol mdi's and atrovent Q 6,
       -  RSBI < 100 and bronchospasm improved, alert without secreation,
   diuresed well, still  on 10 peep and with worsening acidemia/co2
   retention yesterday during PS trial
        -   wean to PS, try dropping PEEP--follow agb,
             Has severe copd
pending PS abg, will consider extubation  to
   noninvasive
   # LE cellulitis--remains af and with nl wbc ct (on chronic now high
   dose steroids) , has improved and may be [**1-24**] venous stasis
       f/u blood cxs with ngtd
       off  vanco and completing  course of levoflox today
   # diastolic dysfx-diuresed well, now more alkalotic, part contraction
   from  diuresis
        Restarted ace-i , home lasix and hctz
   # elevated BUN--h/h stable, cr improved, ? [**1-24**] steroids, follow
   #  Skin lesions-seen by derm, plan for outpt f/u/bx
   ICU Care
   Nutrition:
   Holding tf pending reassessment for extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2122-2-21**] 03:00 PM
   PICC Line - [**2122-2-22**] 02:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2122-02-26 11:52:00 Physician Attending Progress Note
Chief Complaint: resp failure, copd exac
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  69 yo m with severe COPD (chronic prednisone, home O2) with
   chronic hypercarbia, diastolic heart failure, presents with copd
   flare/bronchitis, intubated for acute on chronic hypercarbic and
   hypoxic resp failure
   24 Hour Events:
   Weaning yesterday
   PS 5/5 this am with stable abg
   extubated pre-rounds
   History obtained from Patient, house staff
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2122-2-24**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-2-26**] 11:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 87 (68 - 91) bpm
   BP: 162/88(114) {90/51(66) - 162/122(187)} mmHg
   RR: 21 (12 - 22) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 104 kg
             Total In:
                                                                    771 mL
                                                                    240 mL
   PO:
             TF:
                                                                    340 mL
                                                                     63 mL
   IVF:
                                                                    251 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                  1,985 mL
                                                                    935 mL
   Urine:
                                                                  1,985 mL
                                                                    935 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,214 mL
                                                                   -695 mL
   Respiratory support
   Ventilator mode: CPAP/PPS
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 417 (155 - 782) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 35 cmH2O
   Plateau: 19 cmH2O
   Compliance: 68.8 cmH2O/mL
   SpO2: 88%
   ABG: 7.32/95.[**Numeric Identifier 607**]/56/48/17
   Ve: 6.8 L/min
   PaO2 / FiO2: 140
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Anxious, acc m
   use
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Breath Sounds:
   Crackles : decreased basilar, No(t) Wheezes : ), distant
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, edema decreased
   Skin:  decreased erythema at LLE, chronic stasis changes
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: all 4 ext
   No(t) Sedated
   Labs / Radiology
   12.6 g/dL
   141 K/uL
   126 mg/dL
   0.8 mg/dL
   48 mEq/L
   4.0 mEq/L
   41 mg/dL
   93 mEq/L
   142 mEq/L
   38.3 %
   6.6 K/uL
        [image002.jpg]
                             [**2122-2-24**]  12:14 PM
                             [**2122-2-24**]  07:45 PM
                             [**2122-2-24**]  09:30 PM
                             [**2122-2-25**]  03:37 AM
                             [**2122-2-25**]  03:41 PM
                             [**2122-2-25**]  05:25 PM
                             [**2122-2-26**]  02:56 AM
                             [**2122-2-26**]  06:57 AM
                             [**2122-2-26**]  09:04 AM
                             [**2122-2-26**]  11:28 AM
   WBC
   6.5
   6.6
   Hct
   40.1
   38.3
   Plt
   155
   141
   Cr
   0.8
   0.8
   TCO2
   55
   56
   53
   55
   57
   54
   53
   51
   Glucose
   146
   126
   Other labs: PT / PTT / INR:12.1/29.6/1.0, CK / CKMB /
   Troponin-T:41/4/<0.01, ALT / AST:19/17, Alk Phos / T Bili:36/0.3,
   Amylase / Lipase:29/19, Differential-Neuts:90.2 %, Band:0.0 %,
   Lymph:4.8 %, Mono:4.9 %, Eos:0.1 %, Lactic Acid:0.7 mmol/L, LDH:161
   IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   69 yo m with severe COPD (chronic prednisone, home O2) with chronic
   hypercarbia, diastolic heart failure, presents with copd
   flare/bronchitis, intubated for acute on chronic hypercarbic and
   hypoxic resp failure
    MAIN ISSUES INCLUDE:
   # Respiratory failure, acute on chronic hypercarbic and hypoxemic, copd
   flare/bronchitis/pna
     --extubated on rounds, oxygenation near baseline, now sounds wheezy
   and very anxious
         -   bridge with NPPV though low threshold for reintubation,
         -   treat anxiety which appears large component and
   bronchospasm--ativan and morphine
   and nebs
        -   follow abg's
        -  s/p levoflox X 7 days, d/c'd yesterday
        -  continue PCP [**Name9 (PRE) 1316**] [**Name Initial (PRE) **]/ bactrim given chronic steroids
        -  prednisone --> 80 Q D today and reassess daily
        -  Albuterol mdi's and atrovent Q 6
   # LE cellulitis--remains af and with nl wbc ct (on chronic now high
   dose steroids) , iimproved and likely [**1-24**] venous stasis
       f/u blood cxs ngtd
       off vanco and s/p course of levo
   # diastolic dysfx-diuresed well, now more alkalotic, in part
   contraction from diuresis, le edema much improved
        continue ace-i , home lasix and hctz
   #  Skin lesions-seen by derm, plan for outpt f/u/bx
   # abd distention--benign exam, start bowel reg
   ICU Care
   Nutrition:
   Comments: NPO given tenuos status
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2122-2-21**] 03:00 PM
   PICC Line - [**2122-2-22**] 02:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2122-02-27 07:03:00 Physician Resident Progress Note
Chief Complaint: COPD flare
   24 Hour Events:
   extubated & ABGs showed worsening acidosis, placed on BiPAP & ABGs
   improved
   -pt wanting to leave AMA, very anxious on biPAP, inc'd ativan/moprhine
   -discussion with family& pt- made DNR/DNI, plan to go home with hospice
   in am
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2122-2-24**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2122-2-27**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-2-27**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.5
C (97.7
   HR: 90 (81 - 107) bpm
   BP: 143/97(113) {109/62(76) - 162/115(131)} mmHg
   RR: 20 (14 - 22) insp/min
   SpO2: 86%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 104 kg
                  Total In:
                                                                    270 mL
                  PO:
                  TF:
                                                                     63 mL
   IVF:
                                                                     56 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                    790 mL
   Urine:
                                                                  2,050 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,780 mL
                                                                   -790 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 441 (417 - 574) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 13 cmH2O
   SpO2: 86%
   ABG: 7.35/91/51/46/19
   Ve: 8.6 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious,
   Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Shovel Mask
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: Trace
   Skin:  Warm, Pinked face.  improved LLE erythema
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): PPt, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   148 K/uL
   13.7 g/dL
   78 mg/dL
   0.8 mg/dL
   46 mEq/L
   4.5 mEq/L
   30 mg/dL
   91 mEq/L
   139 mEq/L
   42.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2122-2-25**]  03:41 PM
                             [**2122-2-25**]  05:25 PM
                             [**2122-2-26**]  02:56 AM
                             [**2122-2-26**]  06:57 AM
                             [**2122-2-26**]  09:04 AM
                             [**2122-2-26**]  11:28 AM
                             [**2122-2-26**]  01:10 PM
                             [**2122-2-26**]  04:57 PM
                             [**2122-2-26**]  11:35 PM
                             [**2122-2-27**]  03:27 AM
   WBC
   6.6
   7.2
   Hct
   38.3
   42.3
   Plt
   141
   148
   Cr
   0.8
   0.8
   TCO2
   55
   57
   54
   53
   51
   51
   52
   52
   Glucose
   126
   78
   Other labs: PT / PTT / INR:11.8/27.0/1.0, CK / CKMB /
   Troponin-T:41/4/<0.01, ALT / AST:19/17, Alk Phos / T Bili:36/0.3,
   Amylase / Lipase:29/19, Differential-Neuts:90.2 %, Band:0.0 %,
   Lymph:4.8 %, Mono:4.9 %, Eos:0.1 %, Lactic Acid:0.7 mmol/L, LDH:161
   IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR:
   The ET tube tip is approximately 4.5 cm above the carina.  The
   perihilar
   opacity which might represent mild pulmonary edema is again noted.  The
   lung
   bases were not included on the field of view.  No apical pneumothorax
   is
   demonstrated.  The right PICC line tip is in mid SVC.
   Assessment and Plan
   69 y/o male w/ hx of COPD, [**Year (4 digits) 1343**], admitted w/ dyspnea, likely worsening
   hypoxia in setting of COPD flaire, now intubated.
   #  hypoxia:  most likely COPD flare.  Wheezes on chest exam w/ poor
   pair movement c/w obstructive etiology.  Patient w/ negative LENI, low
   suspicison of PE.  Patient was intubated due to increasing hypercapnea
   and increased work of breathing.  Improved ABG on ventilator.  Patient
   was extubated yesterday, ABG w/ acidemia, started on CPAP.  Patient
   hyperventilating w/ anxiety.
   --             started on 80mg PO predniosone, still wheezy on exam,
   will likely maintain at current dose, and taper slowly
   --             frequent albuterol / atrovent nebs, decreased frequency
   q4
   --             s/p levaquin for empiric coverage
   --             sputum CX showed no organisims, urine legonalla negative
   --             DFA negative
   --             CE negative x 3
   --             some component of [**Year (4 digits) 1343**] w/ fluid overoloand on CE and LE
   edema during hospitalization.  Has been diureeded w/ significant
   improvoemnton exam.  Will try to run even and maintain on home lasix
   dose.
   #Anxiety:  Patient notably anxious, w/ htn, tachycarida,
   hyperventilation.  Somewhat improved on anxietylitics.
   - continue ativan/morphine
   -patinent does not want to be re-intubated, and after family meeting,
   patinet now DNR/DNI w/ planned d/c to hospice
   #cardiac:  + SOB, no CP, orthopnea, PND, has LE edema however.  Low
   suspision for MI
   --             Ischemia: ROMI negative, was started on ASA, now d/c
   --             Rhythem: sinus tach, now resolved.  Felt was likely [**1-24**]
   to hypoxa,distress from BIPAP, EKG unrevealing, cont telemetry
   --             Pump: now w/ pleural edema on CXR, hx of [**Last Name (LF) 1343**], [**First Name3 (LF) 178**]
   diurese and  resume home lasix dose.
   # HTN:  hx of HTN.  continue home lisinopril/HCTZ, BP Well controlled
   #LE edema/erythema:  LE erythema slightly improved.  Cellulitis vs.
   changes from LE edema.  Noted that  no WBC, no fever.  Startarted on
   vanc b/c looked notably angre. Follow up bcx, wound cx.  Low suspicisn
   for MRSA cellultiis, feel adequate treatment on levofloxacin.
   -- outpatieted shave bx of ankle mass
   ICU Care
   Nutrition:
   Comments: Regular Diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2122-2-21**] 03:00 PM, will d/c today
   PICC Line - [**2122-2-22**] 02:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:Home w/ Hospice today

2122-02-27 11:54:00 Physician Attending Progress Note
Chief Complaint: resp failure, copd exac
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 69 yo m with severe COPD (chronic prednisone, home O2) with
   chronic hypercarbia, diastolic heart failure, presents with copd
   flare/bronchitis, intubated for acute on chronic hypercarbic and
   hypoxic resp failure
   24 Hour Events:
   extubated yesterday
 requiring NPPV to maintain ph
   family mtg
code status and goals of care addressed, changed to dnr/
   dni, transition to home hospice care
 INVASIVE VENTILATION - STOP [**2122-2-26**] 09:59 AM
 NON-INVASIVE VENTILATION - START [**2122-2-26**] 12:00 PM
   increased work of breathing, NIPPV initiated.
 NON-INVASIVE VENTILATION - STOP [**2122-2-26**] 11:05 PM
   increased work of breathing, NIPPV initiated.
   History obtained from Patient, hosue staff
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2122-2-27**] 06:00 AM
   Heparin Sodium (Prophylaxis) - [**2122-2-27**] 08:00 AM
   Lorazepam (Ativan) - [**2122-2-27**] 10:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-2-27**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.2
   HR: 114 (82 - 114) bpm
   BP: 103/67(73) {103/65(73) - 123/67(79)} mmHg
   RR: 24 (18 - 24) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101 kg (admission): 104 kg
                  Total In:
                                                                    270 mL
                                                                    240 mL
   PO:
                  240 mL
   TF:
                                                                     63 mL
   IVF:
                                                                     56 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                    970 mL
   Urine:
                                                                  2,050 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,780 mL
                                                                   -730 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 441 (441 - 574) mL
   PS : 8 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 13 cmH2O
   SpO2: 89% (40% shovel + 3 L NC) intermittent NPPV)
   ABG: 7.35/91/51/46/19
   Ve: 8.6 L/min
   PaO2 / FiO2: 128
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: ), tachypneic, acc m use
   Abdominal: Soft, Bowel sounds present, No(t) Distended, No(t) Tender: ,
   Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.7 g/dL
   148 K/uL
   78 mg/dL
   0.8 mg/dL
   46 mEq/L
   4.5 mEq/L
   30 mg/dL
   91 mEq/L
   139 mEq/L
   42.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2122-2-25**]  03:41 PM
                             [**2122-2-25**]  05:25 PM
                             [**2122-2-26**]  02:56 AM
                             [**2122-2-26**]  06:57 AM
                             [**2122-2-26**]  09:04 AM
                             [**2122-2-26**]  11:28 AM
                             [**2122-2-26**]  01:10 PM
                             [**2122-2-26**]  04:57 PM
                             [**2122-2-26**]  11:35 PM
                             [**2122-2-27**]  03:27 AM
   WBC
   6.6
   7.2
   Hct
   38.3
   42.3
   Plt
   141
   148
   Cr
   0.8
   0.8
   TCO2
   55
   57
   54
   53
   51
   51
   52
   52
   Glucose
   126
   78
   Other labs: PT / PTT / INR:11.8/27.0/1.0, CK / CKMB /
   Troponin-T:41/4/<0.01, ALT / AST:19/17, Alk Phos / T Bili:36/0.3,
   Amylase / Lipase:29/19, Differential-Neuts:90.2 %, Band:0.0 %,
   Lymph:4.8 %, Mono:4.9 %, Eos:0.1 %, Lactic Acid:0.7 mmol/L, LDH:161
   IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Imaging: cxr--clear zones with some LLL haziness, atelectasis vs small
   effsuion
   Microbiology: no new micro
   Assessment and Plan
   69 yo m with severe COPD (chronic prednisone, home O2) with chronic
   hypercarbia, diastolic heart failure, presents with copd
   flare/bronchitis, intubated for acute on chronic hypercarbic and
   hypoxic resp failure, extibated yesterday
   Pt has severe end-stage COPD with tenuous resp status at baseline.
   Extensive discussion with pt and family, after extubation, and pt does
   not want repeat intubation,  wishes to return home with hospice care.
   Code status changed to DNR DNI.
   He ahs completed course of antibx for ? retrocardiac pna/bronchitis.
   Continue prednisone with slopw taper 9on 30 daily at baseline).
   Continue nebs/mdi
s.    Will eval whether NPPV can be arranged for
   home, as pt reports that he does not have/use biPAP at home and he may
   benefit from comfort and wob standpoint with intermittent use.
   Anxiety remains issue and will continue to treat w/ ativan, morphine.
   Regarding his known diastolic dysfx, he appears well diuresed w/
   improved LE edema, continuing home regimen of ace-I, lasix, and
   thiazide.
   ICU Care
   Nutrition:
   Comments: diabetic  diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2122-2-22**] 02:17 PM
   Comments: d/c a-line, picc pending plans for d/c
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :discharge planning about home hospice, arrangements for
   NPPV
   Total time spent: 40 minutes

2122-02-28 10:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Severe COPD, extubated, persistent resp distress. Set up for home
   hospice and awaiting discharge.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2122-2-27**] 08:16 AM
 EKG - At [**2122-2-28**] 06:17 AM
   Episode of SVT resolved with Adenosine 6mg. Asymptomatic but observed
   to have minor shaking with tachycardia.
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2122-2-28**] 01:49 AM
   Lorazepam (Ativan) - [**2122-2-28**] 05:26 AM
   Adenosine - [**2122-2-28**] 06:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Complains of wanting to go home
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2122-2-28**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 82 (80 - 143) bpm
   BP: 99/57(68) {98/57(68) - 138/73(85)} mmHg
   RR: 22 (17 - 30) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 104 kg
             Total In:
                                                                    240 mL
                                                                    560 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
   500 mL
   Blood products:
   Total out:
                                                                  2,085 mL
                                                                    540 mL
   Urine:
                                                                  2,085 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,845 mL
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No(t) Anxious, Mild respiratory
   distress
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.7 g/dL
   148 K/uL
   78 mg/dL
   0.8 mg/dL
   46 mEq/L
   4.5 mEq/L
   30 mg/dL
   91 mEq/L
   139 mEq/L
   42.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2122-2-25**]  03:41 PM
                             [**2122-2-25**]  05:25 PM
                             [**2122-2-26**]  02:56 AM
                             [**2122-2-26**]  06:57 AM
                             [**2122-2-26**]  09:04 AM
                             [**2122-2-26**]  11:28 AM
                             [**2122-2-26**]  01:10 PM
                             [**2122-2-26**]  04:57 PM
                             [**2122-2-26**]  11:35 PM
                             [**2122-2-27**]  03:27 AM
   WBC
   6.6
   7.2
   Hct
   38.3
   42.3
   Plt
   141
   148
   Cr
   0.8
   0.8
   TCO2
   55
   57
   54
   53
   51
   51
   52
   52
   Glucose
   126
   78
   Other labs: PT / PTT / INR:11.8/27.0/1.0, CK / CKMB /
   Troponin-T:41/4/<0.01, ALT / AST:19/17, Alk Phos / T Bili:36/0.3,
   Amylase / Lipase:29/19, Differential-Neuts:90.2 %, Band:0.0 %,
   Lymph:4.8 %, Mono:4.9 %, Eos:0.1 %, Lactic Acid:0.7 mmol/L, LDH:161
   IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   69 yo m with severe COPD (chronic prednisone, home O2) with chronic
   hypercarbia, diastolic heart failure, presents with copd
   flare/bronchitis, intubated for acute on chronic hypercarbic and
   hypoxic resp failure, extibated yesterday
   Pt has severe end-stage COPD with tenuous resp status at baseline.
   Extensive discussion with pt and family, after extubation, and pt does
   not want repeat intubation,  wishes to return home with hospice care.
   Code status changed to DNR/DNI.  Plan clarified last night with family
   with goal of discharge to home hospice. Awaiting for hospital bed to be
   delivered to home.
   He has completed course of antibx for ? retrocardiac pna/bronchitis.
   Continue prednisone.  Continue nebs/mdi
s.   BiPAP ordered and will be
   delivered.
   Anxiety remains issue and will continue to treat w/ ativan mostly.
   Morphine ordered.
   Regarding his known diastolic dysfx, he appears well diuresed w/
   improved LE edema, continuing home regimen of ace-I, lasix, and
   thiazide.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2122-2-22**] 02:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :D/C Home
   Total time spent: 35 minutes